US07626056B2
A suspension of sodium hydride (150 mg of 60% in mineral oil, 3.7 mmol) was formed in THF (10 mL) and cooled in an ice bath. 2,2,2-Trifluoroethanol (0.34 mL, 4.7 mmol) was added dropwise, then the mixture was stirred at 0° C. for 5 mins. A solution of ethyl 2-chloro4-methyl-6-(trifluoromethyl)nicotinate (500 mg, 1.9 mmol) in THF (10 mL) was added and the mixture heated at reflux for 18 hours then cooled to room temperature. The mixture was partitioned between ethyl acetate (100 mL) and water (100 mL). The organic phase was dried over magnesium sulphate, filtered and evaporated to give an oil. Purification by flash column chromatography on silica gel using 40% hexane: 60% DCM as eluent gave ethyl 4-methyl-2-(2,2,2-trifluoroethoxy)-6-(trifluoromethyl)nicotinate as a colourless oil (350 mg): 1H NMR (500 MHz, CDCl3): δ 7.24 (1H, s), 4.83-4.77 (2H, q, J 8.3), 4.43 (2H, q, J 7.1), 2.43 (3H, s), 1.38 (3H, t, J 7.1).

reactant | sodium hydride | 3.7 mmol, 150 mg | [H-].[Na+]
reactant | 2,2,2-Trifluoroethanol | 4.7 mmol, 0.34 mL | FC(CO)(F)F | C2H3F3O
reactant | ethyl 2-chloro4-methyl-6-(trifluoromethyl)nicotinate | 1.9 mmol, 500 mg | ClC1=C(C(=O)OCC)C(=CC(=N1)C(F)(F)F)C | C10H9ClF3NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 4-methyl-2-(2,2,2-trifluoroethoxy)-6-(trifluoromethyl)nicotinate | 350 mg | CC1=CC(=NC(=C1C(=O)OCC)OCC(F)(F)F)C(F)(F)F | C12H11F6NO3
